US04824892
97 g (0.2 mole) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-2-propanol were esterified analogously to Example 1 with 103 g (1.2 moles) of crotonic acid. After crystallization from an acetone/ethanol mixture (ratio by volume 1:2), 83 g (75 percent of theory) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl crotonate were obtained in the form of fine white crystals having a melting point of 99° to 103° C. and a purity of 99 percent (HPLC). The structure of the compound obtained was confirmed by UV, IR and NMR spectra.

reactant | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-2-propanol | 0.2 mole, 97 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC(COC2=CC(=C(C=C2)C(C2=CC=CC=C2)=O)O)O)C=C1)O | C29H24O7
reactant | crotonic acid | 1.2 moles, 103 g | C(\C=C\C)(=O)O | C4H6O2
product | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl crotonate | 83 g, 75 percent | C(\C=C\C)(=O)OC(COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O)COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O | C33H28O8
